US06555541B1
c) 4-(4-Methyl-3-nitro-benzyl)-piperazine-1-carboxylic acid tert-butyl ester
To a solution of 4-chloromethyl-1-methyl-2-nitro-benzene (2 g) and triethylamine (3 ml) in DMF (10 ml) was added piperazine-1-carboxylic acid tert-butyl ester (2.01 g) and the stirred reaction heated at 78° C. for 15 hr. After cooling to room temperature, the reaction was poured into ethyl acetate/water and the organic layer was separated. The aqueous layer was extracted with ethyl acetate. The combined organic extracts were washed with water, aqueous KHSO4, aqueous K2CO3 and brine, dried (Na2SO4) and concentrated to leave the sub-title compound as a brown oil (3.5 g).

reactant | 4-chloromethyl-1-methyl-2-nitro-benzene | 2 g | ClCC1=CC(=C(C=C1)C)[N+](=O)[O-] | C8H8ClNO2
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
reactant | piperazine-1-carboxylic acid tert-butyl ester | 2.01 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | ethyl acetate water | C(C)(=O)OCC.O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-(4-Methyl-3-nitro-benzyl)-piperazine-1-carboxylic acid tert-butyl ester | 3.5 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=CC(=C(C=C1)C)[N+](=O)[O-] | C17H25N3O4
